US05117057
To a stirred solution of 1-t-butyl-2-valerylhydrazine (4 g, 0.023M) in toluene (40 ml) at 5° C. was added benzoyl chloride (3.4 g, 0.024M) and 50% aq. sodium hydroxide (0.98 g, 0.024M). After addition, the mixture was warmed to room temperature and stirred 2.5 hr. The mixture was diluted with ethyl acetate (50 ml) and washed with water (2×25 ml) and brine (1×25 ml). The organic layer was dried over magnesium sulfate and concentrated under vacuum to afford N'-t-butyl-N-valeryl-N'-benzoyl-hydrazine as a yellow oil.

reactant | 1-t-butyl-2-valerylhydrazine | 0.023M, 4 g | C(C)(C)(C)NNC(CCCC)=O | C9H20N2O
reactant | benzoyl chloride | 0.024M, 3.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 0.024M, 0.98 g | [OH-].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N'-t-butyl-N-valeryl-N'-benzoyl-hydrazine | C(C)(C)(C)N(NC(CCCC)=O)C(C1=CC=CC=C1)=O | C16H24N2O2
